US08802697B2
Synthesis of 1-(3-(8-cyanoimidazo[1,2-a]pyridin-3-yl)-5-isopropoxyphenyl)-3-(2,2,2-trifluoroethyl)urea
To a mixture of 3-iodoimidazo[1,2-a]pyridine-8-carbonitrile (100 mg, 373 μmol), 1-(3-isopropoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2,2,2-trifluoroethyl)urea (90 mg, 224 μmol), PdCl2(dppf)-CH2Cl2 Adduct (30.5 mg, 37.3 μmol) in Dioxane (3 ml), was added 2M Na2CO3 (0.559 ml, 1119 μmol). The vial was degassed for 5 minutes then capped and heated to 110° C. for 30 minutes in microwave. After cooling to ambient temperature reaction was partioned between EtOAc and brine, separated and organics washed with brinex2. Combined organics were dried directly on to silica and purified via flash chromatography (0-100% Hex/EtOAc; 12 g column). Recovered the title compound (30 mg, 71.9 μmol, 32.1% yield) as a brown solid. MS (ES+) C20H18F3N5O2 requires: 417. found: 418 [M+H]+.

reactant | 3-iodoimidazo[1,2-a]pyridine-8-carbonitrile | 373 μmol, 100 mg | IC1=CN=C2N1C=CC=C2C#N | C8H4IN3
reactant | 1-(3-isopropoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2,2,2-trifluoroethyl)urea | 224 μmol, 90 mg | C(C)(C)OC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC(=O)NCC(F)(F)F | C18H26BF3N2O4
reactant | Na2CO3 | 1119 μmol, 2M, 0.559 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | Dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | PdCl2(dppf) CH2Cl2 | 37.3 μmol, 30.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1-(3-(8-cyanoimidazo[1,2-a]pyridin-3-yl)-5-isopropoxyphenyl)-3-(2,2,2-trifluoroethyl)urea | 71.9 μmol, 30 mg, 32.1% yield | C(#N)C=1C=2N(C=CC1)C(=CN2)C=2C=C(C=C(C2)OC(C)C)NC(=O)NCC(F)(F)F | C20H18F3N5O2
